Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
fish oil
 
Attending: ___.
 
Chief Complaint:
Fall, respiratory distress
 
Major Surgical or Invasive Procedure:
Displaced C4-C5 fracture s/p discectomy/fusion on ___
Posterior laminectomy C3-7/fusion C3-6 on ___
Gastrostomy tube placed ___

 
History of Present Illness:
Patient is a ___ male with a history of coronary artery
disease status post CABG in ___ who is currently anticoagulated
on Plavix and aspirin presenting status post fall. Patient had 1
gin and tonic around noon PTA and also took a dose of Lasix
because "his stomach was getting big" (he had never had this
stomach fullness before). This was the first dose of Lasix
patient has taken in 3 months since he had an episode of syncope
which was attributed to Lasix. Patient reports that he was
standing from sitting and that he was feeling dizzy with visual
blurriness prior to the fall.  He does not believe that he lost
consciousness. Patient had a little SOB and dizziness prior to
the fall. He denies chest pain, diaphoresis, or shortness of
breath prior to the fall. Patient sustained a laceration to his
forehead to the fall as his head hit the kitchen counter. He
attributes the fall to his neuropathy and trouble walking.
Patient is up-to-date on his tetanus. Patient denies nausea,
vomiting, visual changes after the fall, or weakness or changes
in sensation in his limbs.

He presented to an OSH where his alcohol level was 218. His CT
head was negative for bleed but on CT neck was found to have a
non-displaced C4, C5 fracture. 
  
Pertinent ED course (including exam, labs, imaging, consults,
treatment):
Vitals: 97.5 70 107/64 16 97% RA 
Key labs included: hgb of 10.7, hct 33.5, K od 3.1, ethanol of
91, trop negative, ___ 11.7, PTT 28.6, INR 1.1

In the ED, he had an MRI which showed:
C4 spinous process fracture was better seen on CT. Mild 
posterior
ligamentous complex injury C3-C5. Suggestion of subtle 
disruption
of anterior longitudinal ligament at C4-C5, mild prevertebral
adjacent edema. Significant anterolisthesis of C3-C4, and mild
anterolisthesis of C7-T1. Advanced degenerative changes cervical
spine, with multilevel significant central canal narrowing, most
prominent and severe at C4-C5 level. There is multilevel
significant foraminal narrowing. No evidence of epidural
collection, cord edema or restricted diffusion. 

ED discussed the case with Dr. ___ spine attending),
___ resident. Patient has unstable Cervical spinal fracture 
and
not currently stable for rehab placement; will maintain in
___ collar and admit to medical service for preoperative
optimization, risk stratification, and Plavix washout. His
laceration above his eye was repaired with stitches and he was
sent to the floor. 

Upon arrival to the floor, the patient reports pain at the
laceration site in his head but no SOB, CP, abdominal pain,
fevers, N/V.  He feels "full" like his stomach is distended.
 
Past Medical History:
-Hypertension
-CABG ___ vessel
-CAD: MI in ___
-hypercholesterolemia
-Diabetes Mellitus Type 2
-AAA repair in ___
-carotid stenosis
-GERD with ___ esophagus requiring intermittent dilation 
-R ganglion cyst removal ___ 
-sigmoid colon removal ___
-neuropathy
 
Social History:
___
Family History:
No FH of alcoholism.  Pt has a family history of cardiac
disease in both his mother and father but is unable to specific
what this entails. 
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: 98.1 187 / 83 55 18 97 Ra 
GENERAL: NAD, anxious appearing
HEENT: AT/NC, EOMI, PERRL,  MMM but difficult to open mouth  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB; no ronchi, no wheezes, or rales
ABDOMEN: + distended, +BS, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, edema of hands bilaterally,
moving all 4 extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN ___ intact
SKIN: warm and well perfused, no excoriations, R eye ecchymoses,
3 inch laceration above right eye with stitches  

Discharge Physical Exam:
========================
VS: 98.0PO 120/67 66 16 93 Ra 
I/O for ___: 1725/1425 (-300) 
GENERAL: NAD with head turned to left. A&Ox1. Stated that he was 
___ and the date was ___. Was asking if his best 
friend was here.  
HEENT: Healings surgical wounds, no fluctuance or erythema 
around wounds. EOMI, MMM.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTA anteriorly, no wheezes, ronchi; exam limited by 
patient position/inability to move forward
ABDOMEN: soft, non-distended, non-tender, BS+
EXTREMITIES: WWP, non-edematous. Ecchymoses over arms. Scabs on 
forehead.  
NEURO:  A&Ox1. Days of week and months of year backwards. Did 
not test CN11 due to recent surgery. Decreased sensation to 
light touch in Right ___ digits (numbness). Otherwise, 
sensation intact. Impaired extension of Right ___ fingers. 
___ elbow flexion.  
At rest R arm is held close to body. 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 01:28AM BLOOD WBC-7.4 RBC-3.57* Hgb-10.7* Hct-33.5* 
MCV-94 MCH-30.0 MCHC-31.9* RDW-13.7 RDWSD-47.0* Plt ___
___ 01:28AM BLOOD Neuts-60.1 ___ Monos-8.5 Eos-0.5* 
Baso-0.1 Im ___ AbsNeut-4.45 AbsLymp-2.26 AbsMono-0.63 
AbsEos-0.04 AbsBaso-0.01
___ 01:28AM BLOOD ___ PTT-28.6 ___
___ 01:28AM BLOOD Plt ___
___ 01:28AM BLOOD Glucose-107* UreaN-13 Creat-1.1 Na-143 
K-3.1* Cl-104 HCO3-24 AnGap-18
___ 01:28AM BLOOD cTropnT-<0.01
___ 01:28AM BLOOD Calcium-8.7 Mg-2.1
___ 01:28AM BLOOD Ethanol-97*

IMAGING:
========
___ CT HEAD OSH Image Only - No Report

___ MR CERVICAL SPINE W/O C
C4 spinous process fracture was better seen on CT. Mild 
posterior ligamentous complex injury C3-C5. Suggestion of subtle 
disruption of anterior longitudinal ligament at C4-C5, mild 
prevertebral adjacent edema. Significant anterolisthesis of 
C3-C4, and mild anterolisthesis of C7-T1. Advanced degenerative 
changes cervical spine, with multilevel significant central 
canal narrowing, most prominent and severe at C4-C5 level. There 
is multilevel significant foraminal narrowing. No evidence of 
epidural collection, cord edema or restricted diffusion.

___ LIVER OR GALLBLADDER US
Coarse and echogenic liver consistent with steatosis. Other 
forms of liver disease including steatohepatitis, hepatic 
fibrosis, or cirrhosis cannot be excluded on the basis of this 
examination.

___ CT NECK W/CONTRAST 
Status post anterior fixation and discectomy with postsurgical 
changes  throughout the neck, including small amount of 
pneumomediastinum, trace amount of retropharyngeal emphysema, 
moderate amount of anterior subcutaneous emphysema, tracking 
along the anterior upper chest and lower neck with the largest 
amount along the right lower neck.  High-density fluid 
collection adjacent to the right sternocleidomastoid and strap 
muscles measuring 3.5 x 1.3 cm likely represents 
hematoma/postoperative fluid.  Within the limits of this 
technique, no active extravasation is noted at the time of this 
exam.  Follow-up examination can be obtained as clinically 
indicated. Stable alignment of the cervical spine and C4 and C5 
vertebral body fracture fragments. 

___ CHEST (PORTABLE AP)
Right PICC line tip is at the level of lower SVC.  Heart size 
and mediastinum are enlarged, mildly but unchanged.  There is 
interval development of vascular congestion.  There is also more 
conspicuous appearance of left lower lobe consolidation 
concerning for infectious process.  No pneumothorax. 

___ DX CHEST PORT LINE/TUBE
Compared to chest radiographs ___ through ___. 5 
successive chest radiographs show repositioning of the 
transesophageal feeding tube with the wire stylet in place, 
finally place in the upper stomach.  Heterogeneous consolidation 
in the left lower lobe is probably a combination of atelectasis 
and pneumonia, with similar but less severe findings in the 
right lower lobe, both increased over the past several days.  
Heart is mildly enlarged.  Left pleural effusion is small.  No 
pneumothorax. Right PIC line ends in the upper right atrium, as 
before. Upper most sternal wire is fractured, unchanged since 
___.  Remaining wires are intact and aligned. 

___ ___ NON-TRAUMA ___ 
C1 through C7 are demonstrated on the lateral view.  Anterior 
and posterior fusion hardware with intervertebral disc spacers 
are noted at the C3 through C6 levels.  Hardware appears intact. 
 NG tube is seen, partially visualized.  Mediastinal wires are 
seen.  A right central venous catheter is partially 
visualized.  There is persistent prevertebral soft tissue edema, 
as seen on the prior study. 

___ LIVER OR GALLBLADDER US
1. Coarse and nodular hepatic architecture however no concerning 
liver lesion identified. 
2. Borderline splenomegaly. 

___ MR ___ W/O CONTR
1. Status post anterior and posterior instrumented fixation from 
C3 through C6 with evidence of a focal nonenhancing fluid 
collection abutting the posterior aspect of the posterior 
elements from C2 through C4.  The fluid collection is likely a 
postoperative seroma, however close attention on followup is 
recommended to exclude postoperative pseudomeningocele. 
2. Focal kinking of the posterior aspect of the cervical spine 
at the level of C7-T1 likely due to a combination of 
postsurgical change and ligamentum flavum hypertrophy.  No 
associated abnormal cord signal. 
3. Additional findings as described above. 

___ MR HEAD W & W/O CONTRAS
1. No acute intracranial abnormality on contrast enhanced MRI 
head, allowing for moderate motion degradation. 
2. A few small old bilateral basal ganglia lacunar infarcts. 
3. Evidence of mild white matter chronic small vessel disease. 
4. Likely small old microhemorrhage in the region of the left 
anterior internal capsule. 
5. Additional findings as described above. 

___ MRCP (MR ABD ___
1. Post cholecystectomy.  No evidence of choledocholithiasis.
2. 1.6 cm cystic pancreatic lesion in the body, likely a side 
branch IPMN, follow-up MRCP is suggested.
3. Cirrhotic liver morphology, if this is an unknown diagnosis, 
histopathologic sampling can be obtained to confirm.
4.  Fusiform infrarenal abdominal aortic aneurysm measuring up 
to 4.6 cm.
RECOMMENDATION(S):  MRCP in 6 months to evaluate pancreatic 
cystic lesion.

MICROBIOLOGY:
===============

___ CULTURE: NO GROWTH.
___ CULTURE: NO GROWTH.
___ CULTURE: NO GROWTH.
___ CULTURE: NO GROWTH.
___ CULTURE: NO GROWTH.
___ SCREEN: Negative
___
GRAM STAIN (Final ___: 
      ___ PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED.
___ Urinary Antigen: Negative 

___
 GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED.
   
___
GRAM STAIN (Final ___: 
      >25 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED.

C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ @ 12:16 ___ ON 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

DISCHARGE LABS:
===============

___ 05:25AM BLOOD WBC-11.8* RBC-2.99* Hgb-8.7* Hct-27.6* 
MCV-92 MCH-29.1 MCHC-31.5* RDW-13.2 RDWSD-44.6 Plt ___
___ 05:25AM BLOOD Glucose-179* UreaN-16 Creat-0.8 Na-137 
K-4.6 Cl-96 HCO3-28 AnGap-13
___ 05:25AM BLOOD ALT-29 AST-32 AlkPhos-294* TotBili-0.4
___ 05:25AM BLOOD Albumin-3.1* Calcium-8.8 Phos-4.2 Mg-2.___ with history of CAD s/p CABG in ___, who presented ___ 
after a fall, found to have C4-5 fracture s/p discectomy/fusion 
on ___ and posterior laminectomy C3-7/fusion C3-6 on ___. 
Hospital course was complicated by anterior neck fluid 
collection with airway compromise requiring intubation now 
extubated, ventilator associated pneumonia s/p Abx therapy, 
ongoing encephalopathy, dysphagia s/p PEG placement on ___, and 
new RUE weakness/pain thought to be ___ injury from post-op 
changes. C. diff positive on ___, was discharged on Vancomycin 
for 10D course. Last day of Abx will be ___. 

ACUTE ISSUES:
============

#Vertebral Injury: Pt presented after a fall and was found to 
have C4-5 fracture. He was seen by ortho/spine and underwent 
Plavix washout prior to surgical intervention. C4-5 fracture s/p 
discectomy/fusion on ___ and posterior laminectomy C3-7/fusion 
C3-6 on ___. ___ stable per orthopedics at discharge. 
Patient was discharged with a C-collar to use when active and 
out of bed. Post operative pain was treated with Tylenol and 
Tramadol prn. Post operative course was complicated by issues 
detailed below. 

# RUE weakness and numbness
# RUE pain
Patient began to endorse new RUE pain on ___ with associated 
numbness and weakness. MRI Neck on ___ showed a fluid 
collection consistent with postoperative seroma with focal 
kinking of posterior aspect of C spine at C7-T1 level. Imaging 
was reviewed by ortho and neurosurgery, findings consistent with 
anticipated post-op changes. Per orthopedics, new focal deficits 
most likely ___ traction neuropathy. Patient was also seen by 
neurology and sensorimotor testing revealed weakness and sensory 
deficits involving multiple roots and nerves, likely ___ injury 
from post-op changes that will likely take a few months to 
resolve. Outpatient EMG/nerve conduction studies were 
recommended to evaluate extent of the injury. Pt has close f/u 
with orthopedics. Pain, weakness, and numbness improved from 
___ to discharge. Exam on discharge notable for numbness in 
digits ___ on R hand, impaired extension of digits ___ on R 
hand, and decreased RUE strength (extension more than flexion). 

# Dysphagia 
# Nutrition
Pt exhibited significant dysphagia in post-operative course. CXR 
showed post-operative pre-vertebral and supraglotting airway 
edema believed to be the etiology of his dysphagia. He failed 
formal speech and swallow evaluation and was made NPO. ___ 
was placed on ___ for nutrition, and was pulled by patient on 
___. PEG placed on ___ and tube feeds were started shortly 
after. Pt failed ___ swallow eval on ___ and remained NPO 
except for ice chip trials on discharge. Patient was monitored 
for signs of refeeding syndrome during this admission. 
Electrolytes were wnl at discharge. Nutrition recommended a 
video swallow study in the future after time has been given for 
reduction of pervertebral soft tissue edema.

# C. diff colitis: Patient had acute onset of diarrhea on ___ 
with mild leukocytosis. C. diff toxin was positive and he was 
started on vancomycin. He was discharged on Vancomycin Oral 
Liquid ___ mg PO/NG Q6H for 10D course. Last day of Abx will be 
___. 

# Ventilator Associated PNA
# Intubation for airway protection-now extubated
# Airway edema
Patient was intubated after post-operative fluid collection and 
swelling resulted in airway compromise. After extubation, CXR 
revealed new consolidation consistent with ventilator associated 
pneumonia. Legionella negative, MRSA swab negative. He was 
treated with an 8D course of vanc/cefepime (___). He also 
received Methylpred 20mg IV x6 doses for airway edema. At 
discharge, ___ continued to downtrend and may have persisted in 
setting of C.diff as detailed above. 

# Encephalopathy: Post-operative course was complicated by 
ongoing encephalopathy. Patient was often delirious and 
confused. Most likely secondary to long hospital course, 
malnutrition, and infection. At the time of discharge, confusion 
had improved but with persistent delirium.  

# Concern for liver/biliary pathology: Per the ED note, patient 
with history of cirrhosis/liver disease, but patient did not 
report cirrhosis and neither do outside records. Labs were 
notable for low albumin, elevated Alk Phos, and elevated GGT. 
Normal LFTs otherwise. INR normal. ___ RUQUS showed coarse and 
nodular liver. MRCP on ___ showed 1.6 cm cystic pancreatic 
lesion in the body, cirrhotic liver morphology, and infrarenal 
AAA up to 4.6 cm.  Hep B negative, non-immunized. Hep C 
negative. No e/o hemochromatosis. MELD score 10 and Childs grade 
A on ___, consistent with well compensated liver cirrhosis. 
Patient would benefit from follow up with hepatology for further 
cirrhosis work-up. Repeat MRCP in 6 months was recommended to 
evaluate pancreatic lesion. 

#HTN: Patient had elevated SBP during this admission. Initially 
treated with lisinopril, hydralazine, and home metoprolol with 
good control. He was later transitioned to captopril and 
metoprolol, and then amlodipine with metoprolol. Normotensive BP 
at discharge. BP medications at discharge: Metoprolol Tartrate 
25 mg BID, amLODIPine 5 mg PO/NG DAILY. 

#CAD: Patient with history of CAD s/p CABG in ___ (4 vessel) 
and MI in ___. Had a single episode of chest pain on ___ that 
resolved without intervention. EKG was unchanged from prior. 
CK-MB negative. Troponin slightly elevated at 0.02 on ___ and 
___. Home Plavix and ASA were initially held iso surgical blood 
loss, and were restarted on ___. Home metoprolol was continued.

# Normocytic Anemia: Hgb 10.7 MCV 94 on admission. Patient 
received folate early in his hospitalization and 1u pRBC 
intra-op on ___. Post-op Hgb stable in the ___ range. Iron 
studies on ___ notable for low Fe, normal ferritin, low TIBC 
consistent with anemia of chronic disease.

# Pressure Ulcer: Stage 1 with excoriation in inner 
buttock/rectal area ___ noticed on ___. This was treated with 
barrier cream and dressing, along with frequent re-positioning. 

CHRONIC ISSUES:
=============

#ETOH use: Drinks daily, fall was possibly in setting of 
intoxication. On admission he had a mild tremor and 
hypertensive, with no other signs of withdrawal. Patient was on 
CIWA protocol early on in this admission, but did not score. 

#Peripheral neuropathy: Home tramadol was continued. Patient 
denies taking Gabapentin at home, states that it made him dizzy. 


#DM: Home glipizide was held. Glucose level controlled using 
ISS. 
#GERD: On lansoprazole at home, but this was held during 
admission. 
#HLD: Home rosuvastatin was continued. 
#BPH: Home Tamsulosin was held in setting of foley, restarted on 
d/c. 

TRANSITIONAL ISSUES:
=====================

New Medications on discharge: Vancomycin Oral Liquid ___ mg 
PO/NG Q6H (last day ___, amLODIPine 5 mg PO/NG DAILY.
Held Medications on discharge: Lansoprazole

[ ] Patient has new RUE pain, numbness, and weakness in 
post-operative course. Thought to be ___ injury from post-op 
changes and may take up to 3 months to resolve. Please ensure 
that symptoms resolve during this time-frame.
[ ] Consider EMG/nerve conduction studies to evaluate extent of 
nerve injury.
[ ] PEG tube in place for nutrition. NPO at discharge due to 
significant dysphagia and high aspiration risk. Consider video 
swallow study in the future after time has been given for 
reduction of pervertebral soft tissue edema.
[ ] Continue frequent re-assessments to determine his ability to 
tolerate PO intake without aspirating. 
[ ] Needs Hep B immunization.
[ ] MRCP on ___ showed cirrhotic liver. Patient would benefit 
from hepatology follow-up for further cirrhosis workup. 
[ ] Consider Fibroscan vs. histopathological sampling to confirm 
cirrhosis in the future.
[ ] Repeat MRCP in 6 months was recommended to evaluate 
pancreatic lesion (1.6 cm cystic pancreatic lesion in body seen 
on ___ MRCP).
[ ] BP medications on discharge:Metoprolol Tartrate 12.5 mg 
PO/NG Q6H, amLODIPine 5 mg PO/NG DAILY. Continue to monitor BP 
on this new regimen. 
[ ] Follow-up with patient regarding his alcohol use. He drinks 
daily and fall was possibly in the setting of intoxication.

#Code: Full 
#Contact: ___(sister); Phone number: ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Clopidogrel 75 mg PO DAILY 
3. Lansoprazole Oral Disintegrating Tab 30 mg Other DAILY 
4. GlipiZIDE 2.5 mg PO BID 
5. Acetaminophen 500 mg PO Q8H 
6. Metoprolol Tartrate 25 mg PO BID 
7. Aspirin 81 mg PO DAILY 
8. Furosemide 20 mg PO PRN ABDOMINAL DISTENSION abdominal 
distension 
9. glucose 4 gram oral prn 
10. ___ ___ mcg PO DAILY 
11. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
12. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Multivitamins W/minerals Liquid 15 mL PO DAILY  
3.  Acetaminophen 1000 mg PO Q8H:PRN pain  
4.  Aspirin 81 mg PO DAILY  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
6.  Clopidogrel 75 mg PO DAILY  
7.  ___ ___ mcg PO DAILY  
8.  Furosemide 20 mg PO PRN ABDOMINAL DISTENSION abdominal 
distension  
9.  GlipiZIDE 2.5 mg PO BID  
10.  glucose 4 gram oral prn  
11.  Metoprolol Tartrate 25 mg PO BID  
12.  Rosuvastatin Calcium 20 mg PO QPM  
13.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
================
-Cervical fractures
-Right arm weakness and numbness 
-Dysphagia 
-Ventilator associated pneumonia 
-Liver Cirrhosis
-Clostridium Difficile Colitis 

Secondary Diagnosis:
================
-Alcohol use
-Hypertension
-Anemia
-Coronary Artery Disease 
-Diabetes Mellitus Type 2
-Gastroesophageal Reflux Disease 
-Hyperlipidemia
-Peripheral neuropathy 
-Benign prostate hyperplasia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you here at ___. 

What happened while you were at the hospital?
-You were admitted because you had a fall and hurt your neck. We 
found out that several bones were broken, and needed to be fixed 
with surgery.
-We had to briefly place a breathing tube after one of your 
surgeries and you developed a pneumonia, which was treated with 
antibiotics. 
-You developed difficulty swallowing and were seen by the 
swallow specialists who were concerned that food might be 
entering your lungs when you try to eat (this is called 
aspiration). You had a feeding tube placed into your stomach for 
long term nutrition. 
-You began to have weakness and numbness in your right arm. We 
evaluated this with an MRI of your head and spine. We also 
contacted the experts who did your surgery and the neurology 
team. They said that your right arm would start to feel better 
over the next several months and this will be monitored closely 
as an outpatient. 
-Towards the end of your stay you started to have diarrhea and 
were found to have an infection of your GI tract. You were 
discharged on an antibiotic for this infection. 

What to do on discharge?
- You will leave the hospital to go to a rehabilitation center 
to make you stronger.
- Please follow-up with your primary doctor ___ you leave 
rehab) to make sure that your neck is feeling better, and that 
your breathing is normal.
- Please follow-up with orthopedic surgery to evaluate your neck 
and make sure the weakness and numbness in your right arm is 
improving. 

We wish you the best!

-Your ___ care team. 
 
Followup Instructions:
___